US06140351
To 2-methoxycarbonyl-3-chloro-4-(chloromethyl)thiophene (48 g, 0.21 mol) in glacial acetic acid (500 mL) was added sodium acetate (35 g, 0.42 mol). The reaction was heated at reflux for 24 hours, then cooled and concentrated in vacuo. The residual oil was made basic by addition of saturated aqueous sodium bicarbonate, and the resulting solution extracted with ethyl acetate (4×150 mL). The combined extracts were dried over sodium sulfate and concentrated to afford 47 g (90% yield) of 2-methoxycarbonyl-3-chloro-4-(acetoxymethyl)thiophene as a light brown oil; NMR (CDCl3) 7.6 (s, 1), 5.1 (s, 2), 3.9 (s, 3), 2.1 (s, 3) ppm.

reactant | 2-methoxycarbonyl-3-chloro-4-(chloromethyl)thiophene | 0.21 mol, 48 g | COC(=O)C=1SC=C(C1Cl)CCl | C7H6Cl2O2S
reactant | sodium acetate | 0.42 mol, 35 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 2-methoxycarbonyl-3-chloro-4-(acetoxymethyl)thiophene | 47 g, 90% yield | COC(=O)C=1SC=C(C1Cl)COC(C)=O | C9H9ClO4S
